US07608724B2
In a 100 mL reactor with 10 mL of methanol at a temperature about 60° C., add 0.315 g of metronidazole, 2.0 mL of NaOH 1N, 0.2 g of succinic anhydride and keep the reaction medium under stirring and heating for about 2 hours. Cool the reaction medium to a temperature around 8° C. and allow it to stand for 12 hours. The reaction medium is filtered and the solvent is evaporated to dryness yielding 0.47 g of metronidazole monosuccinate. (Yield=94%)

reactant | metronidazole | 0.315 g | CC1=NC=C(N1CCO)[N+](=O)[O-] | C6H9N3O3
reactant | NaOH | 1N, 2.0 mL, 0.2 g | [OH-].[Na+]
reactant | succinic anhydride | C1(CCC(=O)O1)=O | C4H4O3
solvent | methanol | 10 mL | CO | CH4O
product | metronidazole monosuccinate | 0.47 g, Yield=94% | CC1=NC=C(N1CCOC(=O)CCC(=O)O)[N+](=O)[O-] | C10H13N3O6
